US05534515
Bc. 1-Isobutyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one
4.5 g (13.6 mmol) of 7-benzyloxy-4-chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine (contaminated with about 40% of the isomeric 4-benzyloxy compound), 4 ml of triethylamine and 0.5 g of palladium (5%)/carbon catalyst are hydrogenated with hydrogen for 5 h in 500 ml of methanol. Purification: chromatography on silica gel (eluent: toluene/dioxane 4:1). Yield: 52%, m.p.: 188°-191° C.

reactant | 7-benzyloxy-4-chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine | 13.6 mmol, 4.5 g | C(C1=CC=CC=C1)OC=1N=NC(=C2C1N(C(=C2)C)CC(C)C)Cl | C18H20ClN3O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 1-Isobutyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one | Yield: 52% | C(C(C)C)N1C(=CC2=C1C(NN=C2)=O)C | C11H15N3O
